US06245761B1
Preparation of 4-(2-fluorobenzyloxy)-N-(isopropyl)butylamine
The desired intermediate was prepared from the deprotection of 4-(2-fluorobenzyloxy)-N-(t-butoxycarbonyl)-N-(isopropyl)butylamine using standard techniques. The 4-(2-fluorobenzyloxy)-N-(t-butoxycarbonyl)-N-(isopropyl)butylamine was admixed with a 4:1 mixture of methylene chloride and trifluoroacetic acid. The progress of the reaction was monitored by thin layer chromatography.

reactant | 4-(2-fluorobenzyloxy)-N-(t-butoxycarbonyl)-N-(isopropyl)butylamine | FC1=C(COCCCCN(C(C)C)C(=O)OC(C)(C)C)C=CC=C1 | C19H30FNO3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-(2-fluorobenzyloxy)-N-(isopropyl)butylamine | FC1=C(COCCCCNC(C)C)C=CC=C1 | C14H22FNO
